Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain  
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old male with a history of HTN who presents for 
evaluation of chest pain. The patient was driving to work this 
morning when he experienced sudden onset of substernal 
pressure-like chest pain radiating bilaterally to both sides of 
the chest. This was associated with mild diaphoresis. No 
shortness of breath, lightheadedness, palpitations. The chest 
pain subsided on its own after 1 minute. The patient initially 
attributed his symtpoms to a possible panic attack, as he has a 
history of anxiety; however, when he got out of his car and went 
to work, he felt tremulous, shaky, and generally unwell. He then 
went home, called his PCP, who felt that his symptoms may have 
been related to anxiety and prescribed xanax prn. The patient 
had also recently undergone a exercise MIBI this past ___ at 
___ to r/o CAD given his history of 
elevated BPs, and he was told that the test was within normal 
limits. However, he continued to feel unwell and eventually felt 
that he might pass out. He then presented to the OSH ED.  
.  
At the OSH ED, initial BPs elevated to 218/93, HR 110-120. While 
at the OSH, he again experienced similar SSCP radiating to the L 
shoulder that lasted several seconds. EKG reportedly revealed ? 
ST elevations in III, otherwise no other changes suggestive of 
active ischemia. He was given aspirin 325 mg po X 1, plavix 300 
mg po X 1, lopressor 10 mg IV X 1, lopressor 25 mg po X 1, 
lipitor 80 mg po X 1, SL NTG X 2 with relief of chest pain. 
Prior to transfer to ___. ___ inch nitropaste applied to 
chest.  
.  
In the ED, initial vitals were T:97.9 HR:64 BP:95/62 RR:16 
O2Sat:99% 4L NC. EKG revealed q wave in III, J pt elevation in 
V2-3, and no active ischemic changes. Cardiology was consulted 
who recommended admission to ___ for further evaluation and 
management.  
.  
Currently, the pt remains CP free. 
 
Past Medical History:
HTN  
Anxiety
Panic attacks
Herniated disc  

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
(on admission)
VS - 98.4 122/75 73 20 97% RA Wt 207.8 lbs  
Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 8 cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
___ 05:00AM   GLUCOSE-92 UREA N-21* CREAT-1.1 SODIUM-144 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-28 ANION GAP-14
___ 05:00AM   CK(CPK)-114
___ 05:00AM   CK-MB-3 cTropnT-<0.01
___ 05:00AM   CALCIUM-9.1 PHOSPHATE-3.8 MAGNESIUM-2.5
___ 05:00AM   WBC-9.3 RBC-5.30 HGB-14.7 HCT-43.1 MCV-81* 
MCH-27.8 MCHC-34.1 RDW-13.1
___ 05:00AM   PLT COUNT-237
___ 12:48AM   GLUCOSE-130* UREA N-23* CREAT-1.1 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-106 TOTAL CO2-27 ANION GAP-13
___ 12:48AM   CK(CPK)-113
___ 12:48AM   cTropnT-<0.01
___ 12:48AM   CK-MB-3
.

 
Brief Hospital Course:
___ yo M with h/o HTN and anxiety p/w chest pain.  
.  
# Atypical chest pain, likely caused by panic attack/Anxiety 
- was ruled out for MI with enzymes and EKG without active 
ischemic changes. 
- CP free in hosp   
- Obtained OSH exercise MIBI results which were negative (per 
Dr. ___
- given hx of panic attacks, anxiety and chest pressure, 
associated with SOB, palpitations, derealization, feeling that 
having serious event and possible mortal event, tremulousness, 
diaphoresis, flushing this likely represented a panic attack
- recommended pt take xanax for these episodes in short term and 
talk to PCP about starting an SSRI as well to consider psych 
eval
. 
# Hypertensive urgency 
- likely ___ anxiety, panic attack 
- sbp 120s-150s on home meds in hosp
- discharged on home meds and encouraged to check bp at home (or 
in drug store) and to talk to PCP about increasing dose or 
adding BB (since appears to have exaggerated sympathetic 
response to when anxious/panic attacks)
 
Medications on Admission:
Lisinopril/HCTZ ___ mg 2 tablets daily  
 
Discharge Medications:
1. Lisinopril-Hydrochlorothiazide ___ mg Tablet Sig: Two (2) 
Tablet PO once a day.  
2. Xanax  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
# Atypical chest pain, likely caused by panic attack
# Anxiety
# Hypertensive urgency likely ___ anxiety, panic attack
# HTN

Secondary Diagnosis
# Herniated disc 

 
Discharge Condition:
Stable, chest pain free, sbp 120-150s

 
Discharge Instructions:
You were admitted for chest pressure likely caused by anxiety 
and a panic attack. You did not have any signs of a heart 
attack.  Please take xanax as prescibed by your PCP for panic 
attacks.

No changes to your medications were done. Please take xanax if 
you have a similar episode but if chest pressure does not 
resolve or if chest pain occurs during exercise pls call your 
PCP or go to nearest ED.

Please call your PCP to be seen within ___ weeks.  We also 
strongly recommend a psychiatry evalutation for anxiety, and 
panic attacks.  You may benefit from medical therapy and/or 
psychotherapy.  Please talk to your PCP about taking an SSRI for 
anxiety.  Please only take xanax if you have a panic attack.  
Please also talk to your PCP about considering ___ beta blocker 
for added blood pressure control.
 
Followup Instructions:
___